US03971773
E. 21-Chloro-17-hydroxy-16α-(2-oxopropoxy)-pregna-1,4,9(11)-triene-3,20-dione
A solution of 21 -chloro-11β,17-dihydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione (10 mmoles) in 40 ml of dimethylformamide and 20 ml of pyridine is stirred at 0°C for 75 minutes with 10 ml of methanesulfonyl chloride. The mixture is poured into cold, dilute hydrochloric acid and extracted with chloroform. The chloroform solution is dried and evaporated to give the title compound.

reactant | 21 -chloro-11β,17-dihydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione | 10 mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC(C)=O)O)=O | C24H31ClO6
reactant | methanesulfonyl chloride | 10 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 21-Chloro-17-hydroxy-16α-(2-oxopropoxy)-pregna-1,4,9(11)-triene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)OCC(C)=O)O)=O | C24H29ClO5
